US07531532B2
4-{2-Fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine
After adding a solution of 2-phenylacetyl isothiocyanate in toluene (0.2 M, 2.0 ml) to a solution of 4-(4-amino-2-fluorophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine (85 mg) and (+)-10-camphorsulfonic acid (92 mg) in ethanol (2.0 ml) at room temperature, the mixture was stirred for 25 minutes. The reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate and brine and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:methanol=98:2 to 95:5) to provide the title compound (30.5 mg, 25%) as white powder.

reactant | 2-phenylacetyl isothiocyanate | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
reactant | 4-(4-amino-2-fluorophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 85 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1)F | C22H29FN6O2
reactant | (+)-10-camphorsulfonic acid | 92 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 0.2 M, 2.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | 4-{2-Fluoro-4-[3-(2-phenylacetyl)thioureido]phenoxy}-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 30.5 mg, 25% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C31H36FN7O3S
